US06969730B2
4′-hydroxy-5′-iodo-3′-methyl-1,1′-biphenyl-4-carbonitrile
4′-hydroxy-3′-methyl-1,1′-biphenyl-4-carbonitrile (875 mg, 4.18 mmol) was dissolved into DMF (20 mL) and treated with N-iodosuccinimide (1.012 g, 4.5 mmol). The solution was stirred at room temperature for four days. Then the mixture was stirred with tetramethylguanidine (1 mL) for ten minutes, poured into an aqueous mixture of Na2SO3 and Na2CO3, adjusted to pH 9 with aqueous potassium dihydrogen phosphate, and diluted with ether. The gum which separated from the biphasic mixture was dissolved into EtOAc and added to a rapidly stirred mixture of the aqueous phase and ether. The organic phase was separated, filtered, combined with the original ethereal phase, concentrated, and chromatographed through silica with a 50% to 100% gradient of CH2Cl2/hexanes to provide the title compound as an off-white powder (17% yield). MS (ESI APCI negative ion detection) m/z 334 (M−H)−; 1HNMR (300 MHz, CDCl3) δ 2.38 (s, 3 H), 7.26 (s, 1 H), 7.33 (d, 1 H), 7.60 (d, 2 H), 7.66-7.74 (m, 3 H).

reactant | 4′-hydroxy-3′-methyl-1,1′-biphenyl-4-carbonitrile | 4.18 mmol, 875 mg | OC1=C(C=C(C=C1)C1=CC=C(C=C1)C#N)C | C14H11NO
reactant | N-iodosuccinimide | 4.5 mmol, 1.012 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | tetramethylguanidine | 1 mL | CN(C(N(C)C)=N)C | C5H13N3
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
solvent | ether | CCOCC | C4H10O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4′-hydroxy-5′-iodo-3′-methyl-1,1′-biphenyl-4-carbonitrile | 17% yield | OC1=C(C=C(C=C1I)C1=CC=C(C=C1)C#N)C | C14H10INO
